US07629358B2
Preparation 141: 3-[3-(2-tert-Butoxycarbonylamino-2-methyl-propyl)-phenyl]-acrylic acid benzyl ester
A mixture of [2-(3-bromophenyl)-1,1-dimethylethyl]carbamic acid tert-butyl ester (preparation 32), (2 g, 6.09 mmol), benzyl acrylate (2 g, 12.19), palladium (II) acetate (204 mg, 0.91 mmol), tri-p-tolyl phosphite (556 mg, 1.83 mmol) and triethylamine (2.12 mL, 15.22 mmol) in acetonitrile (100 mL) was heated under reflux for 48 hours. The reaction mixture was then concentrated in vacuo and the residue was purified by column chromatography on silica gel, eluting with ethyl acetate:pentane to afford the title compound as a pale yellow oil in 90% yield, 2.23 g.

reactant | [2-(3-bromophenyl)-1,1-dimethylethyl]carbamic acid tert-butyl ester | 6.09 mmol, 2 g | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)Br)(C)C)=O | C15H22BrNO2
reactant | benzyl acrylate | 2 g | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
reactant | tri-p-tolyl phosphite | 1.83 mmol, 556 mg | P(OC1=CC=C(C=C1)C)(OC1=CC=C(C=C1)C)OC1=CC=C(C=C1)C | C21H21O3P
reactant | triethylamine | 15.22 mmol, 2.12 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 0.91 mmol, 204 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[3-(2-tert-Butoxycarbonylamino-2-methyl-propyl)-phenyl]-acrylic acid benzyl ester | 90% yield | C(C1=CC=CC=C1)OC(C=CC1=CC(=CC=C1)CC(C)(C)NC(=O)OC(C)(C)C)=O | C25H31NO4
